US05254595
Following the procedure of Example 27, but starting from 8-(2,3-epoxypropoxy)-2H-chromene (20.4 g) and 2-aminotetralin (14.85 g) in absolute ethanol (120 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2H-chromen-8-yloxy)-propanamine hydrochloride is obtained ((i): R=H, Ar=radical 44, and the chain is attached to position 2 of the tetralin moiety).

reactant | 8-(2,3-epoxypropoxy)-2H-chromene | 20.4 g | O1C(COC=2C=CC=C3C=CCOC23)C1 | C12H12O3
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2H-chromen-8-yloxy)-propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC=1C=CC=C2C=CCOC12)O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.85 g | NC1CC2=CC=CC=C2CC1 | C10H13N
